US08207164B2
o) N-(3-(3-amino-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-5-yl)-4-fluorophenyl)-5-chloropicolinamide
A solution of tert-butyl 5-(5-(5-chloropicolinamido)-2-fluorophenyl)-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-ylcarbamate (0.210 g, 0.41 mmol) in 10% dioxane in HCl was heated in a sealed tube at 55° C. for 5 h. Reaction mixture was concentrated under reduced pressure, basified with 2% methanolic ammonia and purified by column chromatography on silica gel with MeOH/DCM (3:97) to obtain the title compound as an off white solid. Yield=0.08 g (50%). TLC (20% methanol in chloroform): Rf=0.35, m.p.=190-193° C.,

reactant | tert-butyl 5-(5-(5-chloropicolinamido)-2-fluorophenyl)-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-ylcarbamate | 0.41 mmol, 0.210 g | ClC=1C=CC(=NC1)C(=O)NC=1C=CC(=C(C1)C1(N=C(COCC1(F)F)NC(OC(C)(C)C)=O)C)F | C23H24ClF3N4O4
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | HCl | Cl | ClH
product | N-(3-(3-amino-6,6-difluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-5-yl)-4-fluorophenyl)-5-chloropicolinamide | NC=1COCC(C(N1)(C)C=1C=C(C=CC1F)NC(C1=NC=C(C=C1)Cl)=O)(F)F | C18H16ClF3N4O2
